US08912169B2
Step 2: Synthesis of 3-Iodo-2-methoxy-benzoic acid
To a solution of 3-iodo-2-methoxy-benzaldehyde (3.68 g, 14 mmol) in tert-butanol (70 mL) was added 2,3-dimethyl-but-2-ene (7 mL) followed by a solution comprising disodium hydrogen phosphate monohydrate (7.56 g 56 mmol) and sodium chlorite (7.56 g, approx. 66 mmol, technical grade) in water (70 mL). The resulting mixture was stirred for 20 minutes then diluted with ethyl acetate, washed with brine, dried over magnesium sulfate and concentrated. The residual solid was recrystallized from cyclohexane to give the title compound as a white solid.

reactant | 3-iodo-2-methoxy-benzaldehyde | 14 mmol, 3.68 g | IC=1C(=C(C=O)C=CC1)OC | C8H7IO2
reactant | 2,3-dimethyl-but-2-ene | 7 mL | CC(C)=C(C)C | C6H12
reactant | disodium hydrogen phosphate monohydrate | 56 mmol, 7.56 g | O.P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | sodium chlorite | approx. 66 mmol, 7.56 g | Cl(=O)[O-].[Na+]
solvent | tert-butanol | 70 mL | C(C)(C)(C)O | C4H10O
solvent | water | 70 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Iodo-2-methoxy-benzoic acid | IC=1C(=C(C(=O)O)C=CC1)OC | C8H7IO3
